US04892961
A solution of 2-methyl-3-tetrahydropyranyloxy-1-propanol (250 mg; 1.4 mmol) in dichloromethane (4 ml) was added to a suspension of pyridinium chlorochromate (500 mg; 2.32 mmol) and celite (2.5 g) in dichloromethane (10 ml), and stirred at room temperature for 3 hours. Ether (100 ml) was added thereto. The resultant mixture was filtered, and the filtrate was distilled under reduced pressure to give the solvent. The residue was purified by silica gel chromatography using a mixture of ethyl acetate and benzene (1:4) to give 2-methyl-3-tetrahydropyranyloxypropanal (178 mg; yield, 73%).

reactant | 2-methyl-3-tetrahydropyranyloxy-1-propanol | 1.4 mmol, 250 mg | CC(CO)COC1OCCCC1 | C9H18O3
reactant | pyridinium chlorochromate | 2.32 mmol, 500 mg | [Cr](=O)(=O)([O-])Cl.[NH+]1=CC=CC=C1
reactant | Ether | 100 ml | CCOCC | C4H10O
solvent | dichloromethane | 4 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | 2-methyl-3-tetrahydropyranyloxypropanal | 178 mg, 73% | CC(C=O)COC1OCCCC1 | C9H16O3
